US06825191B2
Step 3 Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-9-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
320 mg (0.85 mmol) of ethyl [(2-amino-5-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate was dissolved in 5 ml of dichloromethane. 205 mg (1.0 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benz-aldehyde and 0.097 ml (1.7 mmol) of acetic acid were added to the obtained solution, and they were stirred at room temperature for 30 minutes. 440 mg (2.1 mmol) of sodium triacetoxyborohydride was added to the reaction mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 5 ml of 1 N sodium hydroxide and 5 ml of ethanol, and the obtained solution was stirred at room temperature for 5 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 5 ml of dichloromethane. 169 mg (1.0 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.24 ml (1.7 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | ethyl [(2-amino-5-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate | 0.85 mmol, 320 mg | NC1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C=C(C=C1)OC | C19H21ClN2O4
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benz-aldehyde | 1.0 mmol, 205 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 1.7 mmol, 0.097 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.1 mmol, 440 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 1.7 mmol, 0.24 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-9-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC=C3OC)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H26ClN3O4
